US05006157
Preparation of ethyl 3-(α,α-dimethylbenzylamino)propionate
100 g (1 mol) of ethyl acrylate was added to 135.2 g (1 mol) of α,α-dimethylbenzylamine, and the mixture was stirred at 100° C. for 18 hours. The reaction product was subjected to distillation to obtain 180.7 g (yield: 77.8%) of the desired compound.

reactant | ethyl acrylate | 1 mol, 100 g | C(C=C)(=O)OCC | C5H8O2
reactant | α,α-dimethylbenzylamine | 1 mol, 135.2 g | CC(C1=CC=CC=C1)(C)N | C9H13N
product | ethyl 3-(α,α-dimethylbenzylamino)propionate | 180.7 g, yield: 77.8% | CC(C1=CC=CC=C1)(C)NCCC(=O)OCC | C14H21NO2
